US04587342
2,4-Diamino-5-(7-methoxy-8-nitro-5-quinolylmethyl)pyrimidine
To a cold (5°) solution of 2,4-diamino-5-(7-methoxy-5-quinolylmethyl)pyrimidine (0.28 g, 1.0 mmol) in concentrated sulfuric acid (2 mL) was added dropwise 90% nitric acid (0.10 g, 1.4 mmol). After stirring at 5° for 30 min, the reation was poured onto ice and the resulting solution taken to pH 3 with 5N sodium hydroxide. The tan solid that separated was collected then boiled in water and filtered to remove insolubles. The filtrate was taken to pH 8 with 1M sodium carbonate to precipitate the title compound (0.14 g, 42%); mp >270° dec. Anal. Calcd for C15H14N6O3 : C, 55.21; H, 4.32; N, 25.75. Found: C, 55.02, H, 4.10; N, 25.41.

reactant | 2,4-diamino-5-(7-methoxy-5-quinolylmethyl)pyrimidine | 1.0 mmol, 0.28 g | NC1=NC=C(C(=N1)N)CC1=C2C=CC=NC2=CC(=C1)OC | C15H15N5O
reactant | nitric acid | 1.4 mmol, 0.10 g | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | 2,4-Diamino-5-(7-methoxy-8-nitro-5-quinolylmethyl)pyrimidine | NC1=NC=C(C(=N1)N)CC1=C2C=CC=NC2=C(C(=C1)OC)[N+](=O)[O-] | C15H14N6O3
